* source GATE-22-16 used PSpice
X_U1         N00227 N000771 N000772 N000773 N00234 ALD1701/AL
R_R1         N001021 N00227  1k TC=0,0 
R_R2         0 N000771  1k TC=0,0 
V_V1         N001021 0 0.1Vdc
V_V2         0 N000772 20Vdc
V_V3         N000773 0 -20Vdc
C_C1         N00227 N00234  1n  TC=0,0 
